US09388144B2
To a solution of (14S,18S)-tri-tert-butyl 1-(1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2-(4-(prop-2-yn-1-yloxy)benzyl)-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate (145 mg, 0.13 mmol), tri-tert-butyl 2,2′,2″-(10-(2-((3-azidopropyl)amino)-2-oxoethyl)-1,4,7,10-tetraazacyclododecane-1,4,7-triyl)triacetate (59 mg, 0.090 mmol) in THF (5.0 mL) and water (1.0 mL) was added copper powder (6.4 mg) and 1 N CuSO4 (0.01 mL). The mixture was stirred at room temperature for overnight under nitrogen, diluted with EtOAc, washed with an aqueous saturated solution of EDTA. The solvent was evaporated under reduce pressure to afford a residue, which was purified by Biotage SP4 to afford ((14S,18S)-tri-tert-butyl 1-(1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2-(4-((1-(3-(2-(4,7,10-tris(2-(tert-butoxy)-2-oxoethyl)-1,4,7,10-tetraazacyclododecan-1-yl)acetamido)propyl)-1H-1,2,3-triazol-4-yl)methoxy)benzyl)-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate (21.8 mg). MS (ESI), 883.2 (M/2+H)′.

reactant | (14S,18S)-tri-tert-butyl 1-(1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2-(4-(prop-2-yn-1-yloxy)benzyl)-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate | 0.13 mmol, 145 mg | C(C)(C)(C)OC(CN(C(CN1C(=NC=C1)CN(CCCCCC(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CC1=CC=C(C=C1)OCC#C)=O)CC(OC(C)(C)C)=O)=O | C58H91N7O14
reactant | tri-tert-butyl 2,2′,2″-(10-(2-((3-azidopropyl)amino)-2-oxoethyl)-1,4,7,10-tetraazacyclododecane-1,4,7-triyl)triacetate | 0.090 mmol, 59 mg | N(=[N+]=[N-])CCCNC(CN1CCN(CCN(CCN(CC1)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)=O | C31H58N8O7
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper | 6.4 mg | [Cu] | Cu
catalyst | CuSO4 | 1 N, 0.01 mL | [O-]S(=O)(=O)[O-].[Cu+2]
product | (14S,18S)-tri-tert-butyl 1-(1-(2-(bis(2-(tert-butoxy)-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)-8,16-dioxo-2-(4-((1-(3-(2-(4,7,10-tris(2-(tert-butoxy)-2-oxoethyl)-1,4,7,10-tetraazacyclododecan-1-yl)acetamido)propyl)-1H-1,2,3-triazol-4-yl)methoxy)benzyl)-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate | 21.8 mg | C(C)(C)(C)OC(CN(C(CN1C(=NC=C1)CN(CCCCCC(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CC1=CC=C(C=C1)OCC=1N=NN(C1)CCCNC(CN1CCN(CCN(CCN(CC1)CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)=O)=O)CC(OC(C)(C)C)=O)=O | C89H149N15O21
